US07749992B2
To a cooled (0° C.) solution of 1,2,3,4-Tetrahydro-benzo[b]azepin-5-one (1.5 g, 9.3 mmol) and pyridine (2.26 ml, 27.9 mmol) in dichloromethane (30 ml) was added 1M isopropylchloroformate (solution in toluene) dropwise over 10 minutes. After addition was completed, the mixture was removed from the cold bath and stirred for 18 hours at room temperature. The mixture was cooled to 0° C., then treated with aqueous 1N NaOH and stirred for 30 minutes. After layer separation, the aqueous layer was extracted with dichloromethane. The combined organic phases were washed with 1N HCl, saturated aqueous NaHCO3, brine, then dried (Na2SO4) and concentrated to an oil. Purification by silica gel chromatography (eluent, 3:1 n-hexanes:ethyl acetate) provided 5-Oxo-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid isopropyl ester (1.91 g).

reactant | 1,2,3,4-Tetrahydro-benzo[b]azepin-5-one | 9.3 mmol, 1.5 g | N1C2=C(C(CCC1)=O)C=CC=C2 | C10H11NO
reactant | pyridine | 27.9 mmol, 2.26 ml | N1=CC=CC=C1 | C5H5N
reactant | isopropylchloroformate | 1M | C(C)(C)OC(=O)Cl | C4H7ClO2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 5-Oxo-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid isopropyl ester | 1.91 g | C(C)(C)OC(=O)N1C2=C(C(CCC1)=O)C=CC=C2 | C14H17NO3
